US09376450B2
To a solution of (1-(5-bromo-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol (see PREPARATION P7.1; 115 mg, 0.25 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (52.5 mg, 0.25 mmol) and K3PO4 (100 mg, 0.5 mmol) in 1,4-dioxane (10 mL) and H2O (2 mL) was added Pd(dppf)Cl2 (15 mg, 0.02 mmol) then the reaction mixture was stirred at 110° C. under N2 atmosphere overnight. The reaction mixture was filtered through CELITE® and washed with CH2Cl2 (30 mL). The filtrate was concentrated and the crude product was purified by silica gel column to give (1-(5-(3,6-dihydro-2H-pyran-4-yl)-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol (100 mg, 0.21 mmol, yield 84%). ESI-MS (M+1): 474 calc. for C27H31N5O3 473.

reactant | (1-(5-bromo-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol | 0.25 mmol, 115 mg | BrC=1C(=NC(=NC1)N1CCC(CC1)CO)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C22H24BrN5O2
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.25 mmol, 52.5 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | K3PO4 | 0.5 mmol, 100 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (1-(5-(3,6-dihydro-2H-pyran-4-yl)-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol | 0.21 mmol, 100 mg, yield 84% | O1CCC(=CC1)C=1C(=NC(=NC1)N1CCC(CC1)CO)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C27H31N5O3
